US06245328B1
3.29 g (16 mmol) of copper(I) bromide/dimethyl sulfide and a Grignard reagent, prepared from 3.92 g (36 mmol) of ethyl bromide and 1.3 g (54 mmol) of magnesium in 60 ml of diethyl ether, were added in succession to a stirred solution of (4R,5R)-[5-hydroxymethyl-2,2-dimethyl-1,3-dioxolan-4-yl]methyl p-toluenesulfonate (4.62 g, 14.6 mmol) in 60 ml of tetrahydrofuran at -40° C. under argon. After stirring at 0° C. for 4 hours, the mixture was poured into a mixture of 200 ml of saturated aqueous ammonium chloride solution and 10 ml of saturated aqueous ammonia solution. The resulting 2-phase system was stirred for 20 minutes. The organic phase was then separated off and the aqueous phase was extracted with ethyl acetate. The combined organic phases were washed with saturated aqueous ammonium chloride, sodium hydrogen carbonate and concentrated sodium chloride solution. After drying over anhydrous sodium sulfate and removing the solvent, a residue remained which was chromatographed on 100 g of silica gel using ethyl acetate and n-hexane in the weight ratio 1:3 as eluent. (4R, 5R)-(2,2-Dimethyl-5-propyl-1,3-dioxolan-4-yl)methanol was obtained as a colorless oil in a yield of 83.3% ([α]D20=+27.3° (c=2.81° in trichloromethane); cf. Liebigs Ann. Chem. (1975) page 2261: [α]D25=−27.7° (c=2.8 in trichloromethane) for the enantiomer).

reactant | ethyl bromide | 36 mmol, 3.92 g | C(C)Br | C2H5Br
reactant | magnesium | 54 mmol, 1.3 g | [Mg] | Mg
reactant | (4R,5R)-[5-hydroxymethyl-2,2-dimethyl-1,3-dioxolan-4-yl]methyl p-toluenesulfonate | 14.6 mmol, 4.62 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC(O[C@@H]1CO)(C)C)C | C14H20O6S
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
reactant | ammonia | 10 ml | N | H3N
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | copper(I) bromide dimethyl sulfide | 16 mmol, 3.29 g | [Cu]Br.CSC
product | (4R, 5R)-(2,2-Dimethyl-5-propyl-1,3-dioxolan-4-yl)methanol | yield of 83.3% | CC1(O[C@@H]([C@H](O1)CO)CCC)C | C9H18O3
